US03976783
A mixture of DL-octopamine (4.6 g.), 4-carbamoylphenoxy acetone (5.8 g.) and ethanol (150 ml.) was boiled under reflux for 8 hours in the presence of molecular sieves, then hydrogenated over platinum oxide at 50 p.s.i. and 50°C. Filtration and evaporation in vacuo of the filtrate gave a viscous oil which was triturated with ether to provide a semi-solid material. This material was then triturated with ethanol and the residual white solid crystallized from aqueous dimethylformamide to afford DL-2-[2-(4-carbamoyl-phenoxy)-1-methylethylamino]-1-(4-hydroxyphenyl)ethanol hemihydrate (2.0 g.), m.p. 195-198°C.

reactant | DL-octopamine | 4.6 g | C1=CC(=CC=C1[C@H](CN)O)O | C8H11NO2
reactant | 4-carbamoylphenoxy acetone | 5.8 g | C(N)(=O)C1=CC=C(OCC(C)=O)C=C1 | C10H11NO3
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-[2-(4-carbamoyl-phenoxy)-1-methylethylamino]-1-(4-hydroxyphenyl)ethanol hemihydrate | 2.0 g | O.C(N)(=O)C1=CC=C(OCC(C)NCC(O)C2=CC=C(C=C2)O)C=C1.C(N)(=O)C1=CC=C(OCC(C)NCC(O)C2=CC=C(C=C2)O)C=C1 | InChI=1S/2C18H22N2O4.H2O/c2*1-12(11-24-16-8-4-14(5-9-16)18(19)23)20-10-17(22)13-2-6-15(21)7-3-13;/h2*2-9,12,17,20-22H,10-11H2,1H3,(H2,19,23);1H2
